US04599344
1-(4-Chlorophenyl)-2-[(3-oxo-1-azabicyclo[2.2.2]oct-2-yl)methyl]-1,3-butanedione hydrochloride
To a solution of 93.10 g (0.47 mole) 1-(4-chlorophenyl)-1,3-butanedione in 500 ml acetone add 60.0 g (0.39 mole) 2-methylene-3-quinuclidinone. Stir the solution at reflux for about 24 hours. Follow the progress of the reaction by thin-layer chromatography on silica gel (EtOAc:MeOH, 9:1). At the completion of the reaction, chill the solution in an ice/water bath. Acidify dropwise with 35 ml concentrated hydrochloric acid to precipitate the product. Collect the precipitate by filtration to obtain the title compound as a mixture of diastereomers.

reactant | 1-(4-chlorophenyl)-1,3-butanedione | 0.47 mole, 93.10 g | ClC1=CC=C(C=C1)C(CC(C)=O)=O | C10H9ClO2
reactant | 2-methylene-3-quinuclidinone | 0.39 mole, 60.0 g | C=C1N2CCC(C1=O)CC2 | C8H11NO
reactant | hydrochloric acid | 35 ml | Cl | ClH
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 1-(4-Chlorophenyl)-2-[(3-oxo-1-azabicyclo[2.2.2]oct-2-yl)methyl]-1,3-butanedione hydrochloride | Cl.ClC1=CC=C(C=C1)C(C(C(C)=O)CC1N2CCC(C1=O)CC2)=O | InChI=1S/C18H20ClNO3.ClH/c1-11(21)15(17(22)12-2-4-14(19)5-3-12)10-16-18(23)13-6-8-20(16)9-7-13;/h2-5,13,15-16H,6-10H2,1H3;1H
